US04540780
A solution of piperidine, 4-(diphenylmethylene) (0.10 mole) and acrylamide (8.95 g, 0.062 mole) in EtOH (50 ml) was refluxed overnight. This reaction mixture was filtered and concentrated. The resulting while solid residue was dissolved in CHCl3, washed with H2O (3×150 ml), dried (Na2SO4) and the solvent removed to give thick yellow oil. Crystallization from CH2Cl2 -i-Pr2O afforded 29.01 g (75%) of 1-piperidinepropanamide, 4-(diphenylmethylene)-; mp 105°-7° C.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | acrylamide | 0.062 mole, 8.95 g | C(C=C)(=O)N | C3H5NO
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1-piperidinepropanamide | 29.01 g, 75% | N1(CCCCC1)CCC(=O)N | C8H16N2O
